Test DC mode support for EQN Measure 
**********************************************************************
*
* This bug covers:
*   1) the case of one variable (vsrc1) in the .DC line 
*      and one variable (vsrc2) in the .STEP statement.
*
*   2) The DC values of the swept variable (vsrc1) are monotonically
*      decreasing.
*
* See SON Bug 884 for more details.
************************************************************
vsrc1   1a 0 1
rload1a 1a 1b 0.1
rload1b 1b 0 1

vsrc2   2a 0 1
rload2a 2a 1b 0.2

* Reverse the step order on vsrc1 (from the test in MEASURE_DC)
* to make sure that both increasing and decreasing sequences of
* values are tested.
.DC vsrc1 5 1 -1
.STEP VSRC2 2 5 3

* Note: vsrc1:DCV0 is the syntax for printing the DC value of vsrc1,
* at it is swept. 
.print dc vsrc1:DCV0  vsrc2:DCV0 v(1a) v(1b) VV1 VV2 vv2from vv2to vv2ft vv2tf dif

* PARAM is a synonym for EQN for Xyce 
.measure dc vv1 PARAM {v(1b)+1.0} 
.measure dc vv2 EQN {v(1b)+12.0}
.measure dc vv2from EQN {v(1b)+12.0} FROM=4
.measure dc vv2to EQN {v(1b)+12.0} TO=4

 * these should get the same answer
.measure dc vv2ft EQN {v(1b)+12.0} FROM=2 TO=4
.measure dc vv2tf EQN {v(1b)+12.0} FROM=4 TO=2

.measure dc dif EQN {vv1-vv2} 

* Tests should return -1 or -100, since the FROM-T0 window 
* does not overlap with the stepped values for VSRC1:DCV0
.measure dc eqnReturnNegOne EQN {v(1b)+1.0} FROM=-4 TO=-2
.measure dc eqnReturnNeg100 EQN {v(1b)+1.0} FROM=8 TO=6 DEFAULT_VAL=-100

* Signifies end of test. .sh file looks for a measure named lastMeasure.  
* This is needed for compatibility for testing with a verbose build, which 
* is often used by the Xyce developers.
.measure dc lastMeasure max v(1b) 

.END

